US09315521B2
2-{[(2-chloro-6-methoxyphenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol
2-(bromomethyl)-1-chloro-3-methoxybenzene (470 mg, 2 mmol), 6-methyl-2-sulfanylpyrimidin-4-ol (270 mg, 1.9 mmol), and potassium carbonate (263 mg, 1.9 mmol) were mixed in DMF (10 mL). The mixture was stirred at room temperature for 2 hours. To the mixture, water (100 mL) was added. The suspension was filtered and washed with water and ethyl acetate to provide pure titled product (400 mg, 70% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.20 (s, 3H), 3.82 (s, 3H), 4.50 (s, 2H), 6.00 (s, 1H), 7.05 (m, 2H), 7.31 (t, 1H); M+297.

reactant | 2-(bromomethyl)-1-chloro-3-methoxybenzene | 2 mmol, 470 mg | BrCC1=C(C=CC=C1OC)Cl | C8H8BrClO
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 1.9 mmol, 270 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | potassium carbonate | 1.9 mmol, 263 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-{[(2-chloro-6-methoxyphenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 400 mg, 70% yield | ClC1=C(C(=CC=C1)OC)CSC1=NC(=CC(=N1)O)C | C13H13ClN2O2S
